US07253165B2
Synthesis of (R)-1-(2-cyclohex-1-enyl-ethylamino)-3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dimethylformamide and 2-(1-cyclohexenyl)ethylamine in ethanol, essentially as described above in Example 70. Purity by LC/MS=100%, [M+H]+=411.

reactant | (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | 2-(1-cyclohexenyl)ethylamine | C1(=CCCCC1)CCN | C8H15N
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-(2-cyclohex-1-enyl-ethylamino)-3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propan-2-ol | C1(=CCCCC1)CCNC[C@H](COC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)F)O | C24H27FN2O3
